US04168379
4-Benzyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol
11.2 g (70 millimoles) of 2-benzyloxazole and 10.5 g (70 millimoles) of 3-methylsulfonyl-2,5-dihydrofuran are heated for 7 hours at 160°. The unconverted starting compounds are distilled off in a high vacuum and the distillation residue is extracted with methylene chloride. The 4-benzyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol contained in the extract is separated off by chromatography over silica gel (using methylene chloride and ethyl acetate). 4.3 g are obtained. Recrystallization from benzene/methylene chloride gives a pure product.

reactant | 2-benzyloxazole | 70 millimoles, 11.2 g | C(C1=CC=CC=C1)C=1OC=CN1 | C10H9NO
reactant | 3-methylsulfonyl-2,5-dihydrofuran | 70 millimoles, 10.5 g | CS(=O)(=O)C=1COCC1 | C5H8O3S
product | 4-Benzyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol | C(C1=CC=CC=C1)C1=NC=C(C2=C1COC2)O | C14H13NO2
